US05120738
Preparation of (R)-1-Benzyloxycarbonyl-2-[1-oxo-3-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonylamino)propyl]aminomethylpyrrolidine
(R)-2-Aminomethyl-1-benzyloxycarbonylpyrrolidine (750 mg) and 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid (829 mg) were Example reacted in the same manner as in Reference Example 25 to obtain 1.10 g of the ojective compound (yield: 72%).

reactant | (R)-2-Aminomethyl-1-benzyloxycarbonylpyrrolidine | 750 mg | NC[C@@H]1N(CCC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
reactant | 3-[N-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonyl)amino]propionic acid | 829 mg | CC1(OCC(C(O1)C(=O)NCCC(=O)O)(C)C)C | C12H21NO5
product | (R)-1-Benzyloxycarbonyl-2-[1-oxo-3-(2,2,5,5-tetramethyl-1,3-dioxane-4-carbonylamino)propyl]aminomethylpyrrolidine | 1.10 g, yield: 72% | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CNC(CCNC(=O)C1OC(OCC1(C)C)(C)C)=O | C25H37N3O6
